US07449475B2
N-{4-Fluoro-2-[(2S)-oxiran-2-ylmethoxy]phenyl)acetamide
A mixture of N-(4-fluoro-2-hydroxyphenyl)acetamide (1.69 g, 10.0 mmol), (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (2.59 g, 10.0 mmol) and Cs2CO3 (4.87 g, 15.0 mmol) in DMF (15 mL) was stirred at room temperature for 2 h. The reaction mixture was partitioned between ethylacetate and H2O. The organic layer was dried over Na2SO4 filtered and concentrated. The residue was purified by silica gel flash chromatography to give the subtitled compound (1.35 g).

reactant | N-(4-fluoro-2-hydroxyphenyl)acetamide | 10.0 mmol, 1.69 g | FC1=CC(=C(C=C1)NC(C)=O)O | C8H8FNO2
reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 10.0 mmol, 2.59 g | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | Cs2CO3 | 15.0 mmol, 4.87 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-{4-Fluoro-2-[(2S)-oxiran-2-ylmethoxy]phenyl)acetamide | 1.35 g | FC1=CC(=C(C=C1)NC(C)=O)OC[C@H]1OC1 | C11H12FNO3
